### PR TITLE
[Merged by Bors] - feat(Spectrum/Prime/Topology): Ring.KrullDimLE.eq_bot_or_eq_top

### PR DESCRIPTION
**Pull request by xgenereux**
Given a local ring `R` which is also a domain with `Ring.KrullDimLE 1 R` (or equivalently `Ring.DimensionLEOne`) a prime is either `⊥` or`⊤`.

The application I have in mind is `IsDiscreteValuationRing R`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 1]
```diff
@@ -1232,6 +1232,19 @@ lemma isClosed_singleton_closedPoint : IsClosed {closedPoint R} := by
   rw [PrimeSpectrum.isClosed_singleton_iff_isMaximal, closedPoint]
   infer_instance
 
+section Ring.KrullDimLE
+
+theorem primeSpectrum_eq_of_KrullDimLEOne [IsDomain R] [hd : Ring.KrullDimLE 1 R]
+    (x : PrimeSpectrum R) : x = ⊥ ∨ x = ⊤ := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]: This should be a theorem about `Order.krullDimLE_one` and `BoundedOrder` instead, and then specialized to this.

Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean]: I meant something like
```lean
example {α : Type*} [Preorder α] [Order.KrullDimLE 1 α] [BoundedOrder α] {x : α} :
    x = ⊥ ∨ x = ⊤ := by
  convert Order.krullDim_le_one_iff.mp Order.KrullDimLE.krullDim_le x using 1
  · sorry
  · sorry
```
Could even be an if and only if.

Comment (xgenereux) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean]: Ahh, how about now?

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 2]
```diff
@@ -1235,6 +1235,11 @@ lemma isClosed_singleton_closedPoint : IsClosed {closedPoint R} := by
   rw [PrimeSpectrum.isClosed_singleton_iff_isMaximal, closedPoint]
   infer_instance
 
+theorem primeSpectrum_eq_of_KrullDimLE_one [IsDomain R] [hd : Ring.KrullDimLE 1 R]
+    (x : PrimeSpectrum R) : x = ⊥ ∨ x = ⊤ := by
+  revert x
+  simpa [← Order.krullDim_le_one_iff_of_boundedOrder, Ring.krullDimLE_iff] using hd
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
    (x : PrimeSpectrum R) : x = ⊥ ∨ x = ⊤ :=
  Order.krullDim_le_one_iff_of_boundedOrder.mp Order.KrullDimLE.krullDim_le _
```

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 3]
```diff
@@ -1235,6 +1235,11 @@ lemma isClosed_singleton_closedPoint : IsClosed {closedPoint R} := by
   rw [PrimeSpectrum.isClosed_singleton_iff_isMaximal, closedPoint]
   infer_instance
 
+theorem primeSpectrum_eq_of_KrullDimLE_one [IsDomain R] [hd : Ring.KrullDimLE 1 R]
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
theorem primeSpectrum_eq_of_krullDimLE_one [IsDomain R] [hd : Ring.KrullDimLE 1 R]
```
Or maybe `Ring.KrullDimLE.eq_bot_or_eq_top`.

File: Mathlib/Order/BoundedOrder/Basic.lean [hunk 4]
```diff
@@ -245,6 +245,8 @@ end OrderBot
   denoted `⊤` and `⊥` respectively. -/
 class BoundedOrder (α : Type u) [LE α] extends OrderTop α, OrderBot α
 
+instance (α : Type u) [LE α] [OrderTop α] [OrderBot α] : BoundedOrder α where
```
Comment (erdOne) [inline Mathlib/Order/BoundedOrder/Basic.lean]: I am a bit scared of adding this because of performance issues. 
I think you should just add `[IsDomain R] [IsLocalRing R] : BoundedOrder (PrimeSpectrum R)`.

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean]: Yes this is what I was thinking of. Thanks! Sorry I should have been more clear.

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 5]
```diff
@@ -1235,6 +1237,10 @@ lemma isClosed_singleton_closedPoint : IsClosed {closedPoint R} := by
   rw [PrimeSpectrum.isClosed_singleton_iff_isMaximal, closedPoint]
   infer_instance
 
+theorem Ring.KrullDimLE.eq_bot_or_eq_top [IsDomain R] [hd : Ring.KrullDimLE 1 R]
```
Comment (erdOne) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean]:
```suggestion
theorem Ring.KrullDimLE.eq_bot_or_eq_top [IsDomain R] [Ring.KrullDimLE 1 R]
```

**Review by erdOne — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 6]
```diff
@@ -1235,6 +1237,10 @@ lemma isClosed_singleton_closedPoint : IsClosed {closedPoint R} := by
   rw [PrimeSpectrum.isClosed_singleton_iff_isMaximal, closedPoint]
   infer_instance
 
+theorem Ring.KrullDimLE.eq_bot_or_eq_top [IsDomain R] [Ring.KrullDimLE 1 R]
+    (x : PrimeSpectrum R) : x = ⊥ ∨ x = ⊤ :=
+  Order.krullDim_le_one_iff_of_boundedOrder.mp Order.KrullDimLE.krullDim_le _
+
```
Comment (ocfnash) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1243]: Is it worth adding the following for the 1-dimensional case:
```suggestion

instance [IsDomain R] [Ring.KrullDimLE 1 R] [Nontrivial (PrimeSpectrum R)] :
    IsSimpleOrder (PrimeSpectrum R) where
  eq_bot_or_eq_top := Ring.KrullDimLE.eq_bot_or_eq_top

```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean (hunk 6 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1243]: I considered this but I don't see the purpose. The above lemma should hopefully be enough.

Comment (erdOne) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1243]: I think we seldom see `Nontrivial (PrimeSpectrum R)` so this instance wouldn't usually fire anyways.

Comment (ocfnash) [reply Mathlib/RingTheory/Spectrum/Prime/Topology.lean:1243]: Fair enough!

Let's get this to master:

bors merge
